US05004745
A suspension of 16.5 g of ethyl 3-(2,7-dichloro-6-fluoro-3-quinolyl)-3-oxopropionate in 160 cm3 of ethyl acetate and 19 cm3 of N,N-dimethylformamide dimethyl acetal is heated at a temperature close to 75° C., with stirring, for 2 hours. The reaction mixture is concentrated to dryness under reduced pressure (20 kPa) at 50° C. The dry extract is taken up in 50 cm3 of diisopropyl ether, drained and washed with twice 10 cm3 of diisopropyl ether. 16.57 g of ethyl 2-(2,7-dichloro-6-fluoro-quinoline-3-carbonyl)-3-dimethylaminoacrylate are obtained in the form of an orange solid melting at 122° C. This product is used for the subsequent steps without further purification.

reactant | ethyl 3-(2,7-dichloro-6-fluoro-3-quinolyl)-3-oxopropionate | 16.5 g | ClC1=NC2=CC(=C(C=C2C=C1C(CC(=O)OCC)=O)F)Cl | C14H10Cl2FNO3
reactant | N,N-dimethylformamide dimethyl acetal | 19 cm3 | COC(N(C)C)OC | C5H13NO2
solvent | ethyl acetate | 160 cm3 | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(2,7-dichloro-6-fluoro-quinoline-3-carbonyl)-3-dimethylaminoacrylate | 16.57 g | ClC1=NC2=CC(=C(C=C2C=C1C(=O)C(C(=O)OCC)=CN(C)C)F)Cl | C17H15Cl2FN2O3
